US04737501
A mixture of 5-aminooxindol (14 g), 29 g of bis(β-bromoethyl)amine.hydrobromide in 250 ml of ethanol was stirred under reflux for 8 hours and allowed to stand overnight at room temperature. To the mixture was added sodium carbonate (10.1 g) and the mixture was stirred further for 8 hours under reflux. After cooling to room temperature, crystals which precipitated were collected by filtration and recrystallized from a mixture of water and ethanol to give 16 g of 5-(1-piperazinyl)oxindol.hydrobromide.

reactant | 5-aminooxindol | 14 g | NC=1C=C2CC(NC2=CC1)=O | C8H8N2O
reactant | bis(β-bromoethyl)amine.hydrobromide | 29 g | Br.BrCCNCCBr
reactant | sodium carbonate | 10.1 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 5-(1-piperazinyl)oxindol.hydrobromide | 16 g | Br.N1(CCNCC1)C=1C=C2CC(NC2=CC1)=O | InChI=1S/C12H15N3O.BrH/c16-12-8-9-7-10(1-2-11(9)14-12)15-5-3-13-4-6-15;/h1-2,7,13H,3-6,8H2,(H,14,16);1H
